US04383945
To a solution of a mixture (5:1) of methyl 2-[(3S,4R)-3-{(1RS)-1-formyloxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (880 mg) in methanol (20 ml) was added a 4.9 M solution of sodium methoxide in methanol (0.60 ml) at 0° C. After 30 minutes, acetic acid (0.20 ml) was added and the mixture was evaporated. The residue was taken up into ethyl acetate (30 ml) and washed with a dilute aqueous sodium bicarbonate. Drying over magnesium sulfate and removal of the solvent left an oil, which was chromatographed on silica gel (25 g) eluting with 5-20% acetone in dichloromethane to give a mixture (5:1) of methyl 2-[(3S,4R)-3-{(1RS)-1-hydroxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (742 mg).

reactant | methyl 2-[(3S,4R)-3-{(1RS)-1-formyloxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 880 mg | C(=O)OC(C)[C@H]1C(N([C@@H]1SC)C(C(=O)OC)=C(C)C)=O | C13H19NO5S
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | 0.20 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 0.60 ml | CO | CH4O
product | methyl 2-[(3S,4R)-3-{(1RS)-1-hydroxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 742 mg | OC(C)[C@H]1C(N([C@@H]1SC)C(C(=O)OC)=C(C)C)=O | C12H19NO4S
